US07728131B2
methyl 3,5-dichloro-4-methylbenzoate
This compound was prepared in the same manner as in Reference Example 1 (step 1), except that 3,5-dichloro-4-methylbenzoic acid (Japanese Unexamined Patent Publication (Kokai) No. 6-192196) was used and methanol was used as the solvent, and that the crude product was purified by silica gel column chromatography.

reactant | 3,5-dichloro-4-methylbenzoic acid | ClC=1C=C(C(=O)O)C=C(C1C)Cl | C8H6Cl2O2
reactant | methanol | CO | CH4O
product | methyl 3,5-dichloro-4-methylbenzoate | ClC=1C=C(C(=O)OC)C=C(C1C)Cl | C9H8Cl2O2
